US07105567B2
By the reaction and treatment in the same manner as in Example 2 using [(4-dimethylaminophenyl)methyl]phenylamine (0.70 g) and 2,6-diisopropylphenyl isocyanate (0.74 mL) as starting materials, N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]-N-phenylurea (0.46 g) was obtained.

reactant | [(4-dimethylaminophenyl)methyl]phenylamine | 0.70 g | CN(C1=CC=C(C=C1)CNC1=CC=CC=C1)C | C15H18N2
reactant | 2,6-diisopropylphenyl isocyanate | 0.74 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]-N-phenylurea | 0.46 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=CC=C1)CC1=CC=C(C=C1)N(C)C)=O | C28H35N3O
